US07820670B2
Step A: 3-Bromo-N-(pyridin-4-ylmethyl)imidazo[1,2-b]pyridazin-6-amine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and pyridin-4-ylmethanamine according to general procedure 1 providing the intermediate (94 mg, 84%) as a yellow solid: Rf=0.28 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 8.45-8.46 (m, 2H), 7.60 (d, J=9.7 Hz, 1H), 7.51-7.50 (m, 2H), 7.39 (s, 1H), 6.79 (d, J=9.7 Hz, 1H), 4.61 (s, 2H); ES-MS: (M+H)=304, 306 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | pyridin-4-ylmethanamine | N1=CC=C(C=C1)CN | C6H8N2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 3-Bromo-N-(pyridin-4-ylmethyl)imidazo[1,2-b]pyridazin-6-amine | BrC1=CN=C2N1N=C(C=C2)NCC2=CC=NC=C2 | C12H10BrN5
